US04255428
Reaction of 2-nitroamino-5-(4-methoxy-2-pyridylmethyl)-4-pyrimidone with 1.06 molar equivalents of 2-(5-methyl-4-imidazolylmethylthio)ethylamine in refluxing ethanol for 24 hours gave 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(4-methoxy-2-pyridylmethyl)-4-pyrimidone, m.p. 128-130° (from 2-propanol).

reactant | 2-nitroamino-5-(4-methoxy-2-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=NC=CC(=C1)OC | C11H11N5O4
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | CC1=C(N=CN1)CSCCN | C7H13N3S
reactant | ethanol | C(C)O | C2H6O
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(4-methoxy-2-pyridylmethyl)-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC=C(C(N1)=O)CC1=NC=CC(=C1)OC | C18H22N6O2S
